US06797820B2
To 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid G-1 (10 mmol; prepared as described in Method F, above) in DMF (50 mL) was added proline O-t-butyl ester (10 mmol), DIEA (25 mmol) and PyBOP (10 mmol) and the solution stirred for 8 h. The reaction was diluted with ethyl acetate and washed with water, sodium bicarbonate, brine, and then dried (Na2SO4). The filtrate was concentrated and then purified on silica gel (Merck 60; ethyl acetate/hexane) to afford 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)pentane G-2 (5 mmol, 50%).

reactant | 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | CC1(OC(C(O1)=O)C(C(=O)O)CCCC)C | C11H18O5
reactant | proline O-t-butyl ester | 10 mmol | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | DIEA | 25 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 10 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)pentane | CC1(OC(C(O1)=O)C(CCCC)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)C | C20H33NO6
